US07705042B2
b) 2-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile
To a solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile (0.70 g, 3.1 mmol) (as prepared in the previous step) in CCl4 (10 mL) was added NBS (0.61 g, 3.4 mmol) and AIBN (2 mg, catalytic), and the mixture heated at 60° C. for 4 h. The reaction was diluted with EtOAc (30 mL) and washed with NaHCO3 (2×30 mL) and brine (30 mL) and the organic layer was dried over Na2SO4 and then concentrated. The title compound was eluted from a 20-g SPE cartridge (silica) with 30% EtOAc/hexane to give 0.73 g (77%) of a yellow solid. Mass spectrum (CI(CH4), m/z) Calcd. for C10H16BrN3OSi, 302.0/304.0 (M+H), found 302.1/304.1.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile | 3.1 mmol, 0.70 g | C[Si](CCOCN1C=NC(=C1)C#N)(C)C | C10H17N3OSi
reactant | NBS | 3.4 mmol, 0.61 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
catalyst | AIBN | 2 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
product | 2-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-4-carbonitrile | 0.73 g, 77% | BrC=1N(C=C(N1)C#N)COCC[Si](C)(C)C | C10H16BrN3OSi
